US09056874B2
tert-Butyl 4-((5-cyano-1H-benzo[d]imidazol-2-yl)methyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate
A mixture of tert-butyl 4-(2,2-dibromovinyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate (1.3 g, 2.92 mmol), 3,4-diaminobenzonitrile (700 mg, 5.26 mmol) and DABCO (819 mg, 7.30 mmol) in NMP (12 mL) was stirred at 110° C. for overnight. The reaction mixture was then cooled to room temperature, diluted with EtOAc, and washed with water. The organic layer was dried over magnesium sulfate, filtered and concentrated. The residue was purified using FCC eluting with heptane/EtOAc(60-80%) to provide the title compound. MS (ESI+) m/z 417.2 (M+H).

reactant | tert-butyl 4-(2,2-dibromovinyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | 2.92 mmol, 1.3 g | BrC(=CC1=C2C=CN(C2=C(C=C1OC)C)C(=O)OC(C)(C)C)Br | C17H19Br2NO3
reactant | 3,4-diaminobenzonitrile | 5.26 mmol, 700 mg | NC=1C=C(C#N)C=CC1N | C7H7N3
reactant | DABCO | 7.30 mmol, 819 mg | C1CN2CCN1CC2 | C6H12N2
solvent | NMP | 12 mL | CN1CCCC1=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-Butyl 4-((5-cyano-1H-benzo[d]imidazol-2-yl)methyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | C(#N)C1=CC2=C(NC(=N2)CC2=C3C=CN(C3=C(C=C2OC)C)C(=O)OC(C)(C)C)C=C1 | C24H24N4O3
